US04639299
Blocked Isocyanatoethyl Methacrylate
96.0 grams IEM was added to 77.0 grams (10% excess) caprolactam plus 0.17 grams dibutyltin dilaurate (DBTDL) under agitation at 75° C. over a period of 30 minutes, and held at 75° C. for a further 3 hours at which point the free NCO content had dropped to a trace by infrared spectroscopy. The product (IB) was a syrupy liquid.

reactant | caprolactam | 77.0 grams | C1(CCCCCN1)=O | C6H11NO
reactant | dibutyltin dilaurate | 0.17 grams | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
product | Isocyanatoethyl Methacrylate | C(C(=C)C)(=O)OCCN=C=O | C7H9NO3
